US05459151
2-[4-(3-cyclopentyloxy-4-methoxyphenyl)piperidin-1-yl]-2-oxo-acetamide
To a magnetically-stirred suspension of 2-[4-(3-cyclopentyloxy-4-methoxyphenyl) piperidin-1-yl]-2-oxo-acetic acid (2.5 mmol, 0.868 g) in dry toluene (25 mL) at room temperature was added oxalyl chloride (2.0M solution in CH2Cl2 ; 2.75 mmol, 1.38 mL) dropwise over 10 minutes, followed by DMF (4 drops). The resulting homogenous solution was stirred at room temperature for 30 minutes, after which time saturated NH3 /CH3CN (25 mL) was added dropwise over 30 minutes. A white solid precipitated out of solution, and the heterogeneous mixture was stirred for 1 hour at room temperature. The solution was diluted with H2O to dissolve the white precipitate and the volatiles were removed in vacuo. The solid was partitioned between saturated NaHCO3 (150 mL) and EtOAc (150 mL) and the aqueous phase was extracted with EtOAc (3×150 mL). The combined organic layers were washed with H2O (300 mL), dried (Na2SO4) and concentrated in vacuo to yield the title compound as a white foam, mp=66°-66.5° C. (1.8 mmol, 0.640 g, 74% yield).

reactant | 2-[4-(3-cyclopentyloxy-4-methoxyphenyl) piperidin-1-yl]-2-oxo-acetic acid | 2.5 mmol, 0.868 g | C1(CCCC1)OC=1C=C(C=CC1OC)C1CCN(CC1)C(C(=O)O)=O | C19H25NO5
reactant | oxalyl chloride | 2.75 mmol, 2.0M, 1.38 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | NH3 CH3CN | 25 mL | N.CC#N
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
catalyst | DMF | 4 drops | CN(C)C=O | C3H7NO
product | 2-[4-(3-cyclopentyloxy-4-methoxyphenyl)piperidin-1-yl]-2-oxo-acetamide | 74% yield | C1(CCCC1)OC=1C=C(C=CC1OC)C1CCN(CC1)C(C(=O)N)=O | C19H26N2O4
